US07405236B2
b] {6-[2,2-Dimethyl-5-(4-trifluoromethoxy-phenyl)-pent-4-ynyloxy]-indol-1-yl}-acetic acid ethyl ester
To an ice cold solution of 2,2-dimethyl-5-(4-trifluoromethoxy-phenyl)-pent-4-yn-1-ol (50 mg, 0.18 mmol) in dichloromethane (180 μl) was added trifluoromethanesulfonic anhydride (30 μl, 0.2 mmol) and 2,6-di-tert-butylpyridine (50 μl, 0.22 mmol) under an argon atmosphere. The reaction mixture was stirred for 2 h while the temperature rose from 0° C. to ambient temperature. The solvent was removed under reduced pressure and the residue dissolved in acetonitrile (0.6 ml). The obtained solution was added to a suspension of (6-hydroxy-indol-1-yl)-acetic acid ethyl ester (40 mg, 0.18 mmol; example 1 c]) and cesium carbonate (126 mg, 0.39 mmol) in acetonitrile (1.2 ml). The reaction mixture was stirred for 12 h at ambient temperature and for 1 h under reflux conditions. The residue was filtered off and washed with acetonitrile. The filtrate was brought to dryness under reduced pressure and the residue was dissolved in dichloromethane. The solvent was removed under reduced pressure and the remaining brown oil was purified by flash chromatography (silica gel, heptane/AcOEt) to give 35 mg (70 μmol, 40%) of the title compound as colorless oil.

reactant | 2,2-dimethyl-5-(4-trifluoromethoxy-phenyl)-pent-4-yn-1-ol | 0.18 mmol, 50 mg | CC(CO)(CC#CC1=CC=C(C=C1)OC(F)(F)F)C | C14H15F3O2
reactant | trifluoromethanesulfonic anhydride | 0.2 mmol, 30 μl | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | 2,6-di-tert-butylpyridine | 0.22 mmol, 50 μl | C(C)(C)(C)C1=NC(=CC=C1)C(C)(C)C | C13H21N
reactant | cesium carbonate | 0.39 mmol, 126 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | acetonitrile | 1.2 ml | C(C)#N | C2H3N
solvent | dichloromethane | 180 μl | ClCCl | CH2Cl2
product | {6-[2,2-Dimethyl-5-(4-trifluoromethoxy-phenyl)-pent-4-ynyloxy]-indol-1-yl}-acetic acid ethyl ester | 70 μmol, 35 mg, 40% | C(C)OC(CN1C=CC2=CC=C(C=C12)OCC(CC#CC1=CC=C(C=C1)OC(F)(F)F)(C)C)=O | C26H26F3NO4
